US06878714B2
1-Boc-4-(3-nitro-5-trifluoromethyl-phenoxy)-piperidine (470 mg) was dissolved in MeOH (12 ml) and Pd/C (10 mg) was added. After sparging briefly with H2, the mixture was stirred under H2 for 6 H. The catalyst was removed by filtration and the MeOH solution was concentrated in vacuo to yield 1-Boc-4-(3-amino-5-trifluoromethyl-phenoxy)-piperidine as an off-white foam.

reactant | 1-Boc-4-(3-nitro-5-trifluoromethyl-phenoxy)-piperidine | 470 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C17H21F3N2O5
solvent | MeOH | 12 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 1-Boc-4-(3-amino-5-trifluoromethyl-phenoxy)-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)N | C17H23F3N2O3
